datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=[N+:71](C)[CH:73]=[CH:72][N:61]2[C:62]2=[C:63](C)[CH:64]=[C:65](C)[CH:66]=[C:67]2C)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10][NH:14][C:13](C)=[CH:12]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[C:11]1=[CH:12][C:13](C)=[NH+:14][CH:10]1[CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>C[C:11]([CH2:10][CH:20]1CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.[CH:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>C[C:20]1([CH:10]([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]2)CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[F:20])(=[O:62])[O:82]CC.ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12=11,12;20,21=21"
"CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:92][C:61]([C:10](C)([CH:20]([CH:21]=[C:22](C1=[N+](C)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21,22;22,23=23"
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CC[O:82][C:71]([C-:10](C1CCCCC1)[C:61](=[O:62])[O:112]CC)=[O:72]>>CC[O:82][C:71]([C:10](C1CCCCC1)([CH:20](CC(C)C1=C(C)C=C(C)C=C1C)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20
"CC(C)(C)C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC(C)(C)C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>COC1=CC=C([C:61]([CH:10]([S+:11](C)C)[C:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)=[O:62])C=C1 10,11=10,20"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].C[C:11]1=[CH:10][NH:14][C:13](C)=[CH:12]1>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH:10]1[C:11](C)=[CH:12][C:13](C)=[NH+:14]1)[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C.C[N:72](C)[C:61]([S-:10])=[S:62]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([S:10][C:61](=[S:62])[N:72](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[N+:62](CC)(C1=CC=CC=C1)[BH2-:11][H:10]>>CC1=CC=C([S:32]([N-:21][CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC[N+:62](CC)(C1=CC=CC=C1)[BH2:11] 10,11=10,20;20,21=21"
CC1(C)[O:62][C:111](=[O:112])[C-:10]([C:91]2=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]2)[C:72](=[O:73])[O:83]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]2([C:91]3=[CH:92][CH:93]=[CH:94][CH:103]=[CH:102]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:82][C:71]([CH-:10][S+:61](C)C)=[O:72].C[C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:82][C:71]([CH:10]([CH2:20][CH:21]=[C:22](C)[O-:23])[S+:61](C)C)=[O:72] 10=20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10]>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F 10,11=10,20;20,21=21,22;22,23=23"
